Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with CAD s/p 2 vessel CABG in ___, Hyperlipidemia, DM, 
Asthma who presents with substernal chest pain radiating to 
shoulder blades bilaterally.  Pain woke patient from sleep this 
morning at approx. 3 am. Pain was associated with palpitations 
in her chest and shortness of breath. Denies diaphoresis, 
nausea, vomiting and lightheadedness. She notes the pain to be 
dull in nature and intermittent continuing throughout the 
morning and after presentation to the ED. At home she tried a 
nebulizer treatment and aspirin without any improvement in her 
chest pain. Later in the morning the patient walked her son to 
school and intermittently felt the pain during the walk, however 
it was not particularly worse with walking. Change in position 
didn't effect the pain in her chest. No history of recent 
travel, PE, or DVT. No cough, fever, chills, nausea, vomiting 
diarrhea. No recent sick contacts. No recent viral illness or 
sore throat. 
.
In ED vitals: 86 112/86  98%RA. Patient endorsed pain ___ which 
improved with sublingual nitroglycerin. Pain continued and was 
intermittent lasting approx. one minute and then resolving. 
Patient had EKG which was SR 103 similar to prior. ASA was 
given. Pain ___ in ED, comes and goes q 5min. Troponin 
Negative. D-Dimer Negative. CXR without acute cardiopulmonary 
process.
.
On the floor patient is comfortable. No chest pain or shortness 
of breath. 
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative. 
. 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. 

 
Past Medical History:
Cardiac Risk Factors: Diabetes, Dyslipidemia  
.  
Cardiac History: CABG, in ___ (___) anatomy as follows: 
LIMA to the LAD and Y graft RIMA to the LAD and OM branches. 
.  
Percutaneous coronary intervention, in ___ (___) anatomy as 
follows: 50% LMCA, 80% LAD, and 50% RCA

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. Father died at ___ EtOH Cirrhosis. Mother Died 
___ complication of renal disease. 7 Siblings - 3 brothers with 
___. Diabetes also runs in the family.
 
Physical Exam:
VS -  106/72, HR: 83 RR: 16 O2sat: 100% 
Gen: NAD. Pleasant Oriented x3. Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI.   
Neck: Supple, JVP flat.  
CV: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. 
No Aortic Insufficiency.   
Chest: Resp were unlabored, no accessory muscle use. CTAB.  
Abd: Soft, NTND. Obese. No HSM or tenderness.  
Ext: No c/c/e. 
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
Labs: 
___ WBC-10.3 RBC-4.53 Hgb-12.2 Hct-37.4 MCV-83  Plt ___
___ WBC-7.1 RBC-4.45 Hgb-12.4 Hct-36.5 MCV-82  Plt ___
___ Neuts-67.0 ___ Monos-4.7 Eos-2.1 Baso-0.9
.
___ ___ PTT-27.3 ___
.
___ Glucose-148* UreaN-14 Creat-0.7 Na-139 K-3.9 Cl-105 
HCO3-24 
___ Glucose-136* UreaN-8 Creat-0.7 Na-139 K-4.2 Cl-106 
HCO3-24 
___ ALT-12 AST-13 CK(CPK)-56 AlkPhos-57 TotBili-0.2
.
___ CK(CPK)-47
___ CK(CPK)-46
___ cTropnT-<0.01
___ CK-MB-NotDone cTropnT-<0.01
___ CK-MB-NotDone cTropnT-<0.01
___ D-Dimer-<150
.
Reports: 
CXR: No evidence of acute cardiopulmonary process.
.
STRESS:
This ___ year old type 2 IDDM woman s/p CABG ___ was 
referred to the lab for evaluation of chest pain. The patient 
exercised for 6.5 minutes of ___ protocol and stopped for 
fatigue. The estimated peak MET capacity was 7.5 which 
represents an average functional capacity for her age. No arm, 
neck, back or chest discomfort was reported by the patient 
throughout the study. There were no significant ST segment 
changes during exercise or in recovery. The rhythm was sinus 
with no ectopy. Appropriate hemodynamic response to exercise and 
recovery. IMPRESSION: No anginal type symptoms or ischemic EKG 
changes. Nuclear report sent separately. 
.
Perfussion:  
1. Normal myocardial perfusion.  
2. Normal left ventricular cavity size and systolic function. 

 
 
Brief Hospital Course:
___ yo F with CAD s/p 2 vessel CABG in ___, Hyperlipidemia, DM, 
Asthma who presents with substernal chest pain radiating to 
shoulder blades bilaterally. 
.
CAD/Chest Pain: 
Patient sp 2 Vessel CABG in ___, DM, HLD. EKG stable compared 
to prior. Cardiac enzymes negative x 3. D-Dimer negative. Chest 
Xray without acute cardiopulmonary process. Stress test with 
nuclear imaging without evidence of ischemia (Maximal HR 
Reached, RPP ___, 6.1 minutes on ___ protocol.  Patient 
continued on ASA 325 Daily, Simvastatin 40mg Daily. Beta Blocker 
was stopped by Dr. ___ secondary to low BP, low HR, and 
history of asthma. Further, patient was monitored on telemetry 
without notable event. 
.  
Pump: 
No ECHO at ___. Patient euvolemic on exam. No report of 
reduced ejection fraction.
.  
Rhythm: 
Patient in a sinus rhythm. Monitored on telemetry without event. 
  
.  
DM: 
Hemoglobin Alc (7.5%) on ___. Metformin initially held and 
patient was covered with an insulin sliding scale. At discharge 
Metformin was restarted. 
.
HLD: 
___ Lipid panel on ___ (HDL:54 LDL:90 ___. Continue 
Simvastatin 40mg Daily. Consider addition of a fibrate for 
better triglyceride control.
 
Medications on Admission:
Albuterol Sulfate Inhaler 90mcg PRN SOB
Flovent Diskus 100 mcg Disk  BID     
Metformin 1,000 mg BID      
Simvastatin 40 mg Once Daily            
Aspirin 325 mg Once Daily 
Allegra Daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
5. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. Allegra 60 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Hyperlipidemia
Diabetes Mellitus
Coronary Artery Disease

Secondary: 
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you while you were hospitalized 
with chest pain. During your stay we ruled out a heart attack. 
Further, we evaluated your heart with a stress test which was 
normal. You should continue to take your medications as 
prescribed and follow up with your cardiologist within the next 
month. 
.
No changes were made to your medication regimen. 
 
Followup Instructions:
___